US09079853B2
1-isobutylindoline-2,3-dione
Was prepared in an analogous manner to 1-propylindoline-2,3-dione using isatin (purchased from Fisher Scientific) and 1-bromo-2-methyl propane (purchased from Fisher Scientific). 1H NMR δ (dd, 2H), 7.13 (t, 1H), 6.90 (d, 1H), 3.55 (d, 2H), 2.16 (m, 1H), 1.00 (d, 6H).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 1-bromo-2-methyl propane | BrCC(C)C | C4H9Br
product | 1-isobutylindoline-2,3-dione | C(C(C)C)N1C(C(C2=CC=CC=C12)=O)=O | C12H13NO2
